US05468751
Preparation of 4-chloro-5-nitro-6-ethylpyrimidine
18.7 g (0.125 mol) of diethylaniline are dissolved in 18 ml of phosphorus chloride, and then 8.46 g (0.05 mol) of 4-hydroxy-5-nitro-6-ethylpyrimidine are stirred in. During the addition, the temperature rises from 22° to 47° C. A solution is formed which is heated at 60° C. for 2 hours. It is then stirred with ice-water and ethyl acetate for 30 minutes for the purpose of hydrolysis. The organic phase is separated off and combined with the extracts obtained by extraction, and the mixture is washed with NaHCO3 solution. Removal of the solvent yields 9.1 g of crude product, which is purified by column chromatography on silica gel (eluant:ethyl acetate/hexane 20:80 parts). 6.76 g (72.1% of the theoretical yield) of pure product are obtained in the form of an oil.

reactant | diethylaniline | 0.125 mol, 18.7 g | CCN(CC)C=1C=CC=CC1 | C10H15N
reactant | 4-hydroxy-5-nitro-6-ethylpyrimidine | 0.05 mol, 8.46 g | OC1=NC=NC(=C1[N+](=O)[O-])CC | C6H7N3O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | phosphorus chloride | 18 ml | P(Cl)(Cl)Cl | Cl3P
product | 4-chloro-5-nitro-6-ethylpyrimidine | 9.1 g | ClC1=NC=NC(=C1[N+](=O)[O-])CC | C6H6ClN3O2
